US05677305
First, a mixture containing 1.93 g of 4-chloro-5-(4-oxo-4H-pyridin-1-yl)-1,2-phenylenediamine, 2.21 g of oxalic acid, and 40 ml of 2N hydrochloric acid was refluxed by heating in an oil bath for 2 hours. The mixture was cooled and precipitated crystals were filtered to give 2.1 g of crude crystals of 6-chloro-7-(4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione (melting point: >400° C.). Then, 500 mg of the crude crystals were recrystallized with dimethylformaldehyde and water to give 299 mg of 6-chloro-7-(4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione.

reactant | 4-chloro-5-(4-oxo-4H-pyridin-1-yl)-1,2-phenylenediamine | 1.93 g | ClC1=CC(=C(C=C1N1C=CC(C=C1)=O)N)N | C11H10ClN3O
reactant | oxalic acid | 2.21 g | C(C(=O)O)(=O)O | C2H2O4
solvent | hydrochloric acid | 2N, 40 ml | Cl | ClH
product | 6-chloro-7-(4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione | 299 mg | ClC=1C=C2NC(C(NC2=CC1N1C=CC(C=C1)=O)=O)=O | C13H8ClN3O3
